US07015029B2
Penicillaminamide (74.0 g, 0.50 mol) was dissolved in distilled water (800 ml) and added with acetone (58.0 g, 1.00 mol). The mixture was allowed to react at 30° C. for 1 hour with stirring under normal pressure and cooled. Then, water and acetone were evaporated by using an evaporator. The residue was washed with acetone to obtain white crystals (86.5 g, 0.46 mol) of 2,2,5,5-tetramethyl-1,3-thiazolidine-4-carboxylic acid amide. The yield to penicillaminamide was 92.0 mole %.

reactant | Penicillaminamide | 0.50 mol, 74.0 g | N[C@@H](C(C)(C)S)C(=O)N | C5H12N2OS
reactant | acetone | 1.00 mol, 58.0 g | CC(=O)C | C3H6O
solvent | water | 800 ml | O | H2O
product | 2,2,5,5-tetramethyl-1,3-thiazolidine-4-carboxylic acid amide | 0.46 mol, 86.5 g | CC1(SC(C(N1)C(=O)N)(C)C)C | C8H16N2OS
